US08536214B2
d) (S)—N-(5-((4-(hydroxymethyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide
(S)-Ethyl-1-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate (0.026 mmol, 12 mg) was dissolved in THF (1 mL) and diisobutylaluminium hydride (0.304 mmol, 50 μL, 43.3 mg) added. After 15 min an additional 100 uL of DIBAL added and stirring continued for 30 min before the reaction was quenched with methanol. The mixture was concentrated then partitioned between DCM and Water. The aq. phase was acidified with 5N HCl and the phases mixed and separated using a hydrophobic frit. The organics were concentrated to dryness to give the desired compound as a clear film (10.6 mg, 0.025 mmol, 97%). MS (ESI): m/z [M+H]+ 418.2.

reactant | (S)-Ethyl-1-((2-(1-methylethylsulfonamido)-2,3-dihydro-1H-inden-5-yl)methyl)-5-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 0.026 mmol, 12 mg | C(C)OC(=O)C=1C=NN(C1C(F)(F)F)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C20H24F3N3O4S
reactant | diisobutylaluminium hydride | 0.304 mmol, 50 μL, 43.3 mg | [H-].C(C(C)C)[Al+]CC(C)C
reactant | DIBAL | 100 uL | CC(C)C[AlH]CC(C)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (S)—N-(5-((4-(hydroxymethyl)-5-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-2-yl)propane-2-sulfonamide | OCC=1C=NN(C1C(F)(F)F)CC=1C=C2C[C@H](CC2=CC1)NS(=O)(=O)C(C)C | C18H22F3N3O3S
